US08604062B2
Step c) 3-(4-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester
To a solution of (E)- and/or (Z)—N-hydroxy-4-chloro-benzenecarboximidoyl chloride (26.0 g, 137 mmol) in diethylether (323 mL) was added ethyl 2-butynoate (15.4 g, 16.1 mL, 137 mmol) at 0° C. followed by the dropwise addition of triethylamine (24.1 g, 22.9 mL, 164 mmol) and the resulting mixture allowed to warm up to room temperature overnight. The mixture was then poured onto ice-water, and extracted with diethylether. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (15.2 g, 42%) which was obtained as a light yellow solid. MS: m/e=266.1 [M+H]+.

reactant | (Z)—N-hydroxy-4-chloro-benzenecarboximidoyl chloride | 137 mmol, 26.0 g | O\N=C(\C1=CC=C(C=C1)Cl)/Cl | C7H5Cl2NO
reactant | ethyl 2-butynoate | 137 mmol, 16.1 mL, 15.4 g | C(C#CC)(=O)OCC | C6H8O2
reactant | triethylamine | 164 mmol, 22.9 mL, 24.1 g | C(C)N(CC)CC | C6H15N
solvent | diethylether | 323 mL | C(C)OCC | C4H10O
product | 3-(4-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 15.2 g, 42% | C(C)OC(=O)C=1C(=NOC1C)C1=CC=C(C=C1)Cl | C13H12ClNO3
